US05354867
PART A: Preparation of 4-(furan-2-yl)-2-n-propylimidazole-5-carboxaldehyde
A solution of 2.64 g (0.01 mol) of 4-iodo-3-n-propylimidazole-5-carboxaldehyde, 60 mL of toluene, and 0.33 g (0.00029 mol) of tetrakistriphenylphosphine palladium (0) was stirred at room temperature under nitrogen, while a solution of 2.34 g (0.0174 mol) of furan-2-ylboronic acid in 50 mL of ethanol was slowly added. The reaction was stirred for 5 minutes, after which 12 mL of 2M sodium carbonate was slowly added. After the addition was completed, the reaction was refluxed for 8 h and cooled. The reaction was filtered, the filtrate was evaporated under reduced pressure, and the resulting residue was dissolved in 300 mL of methylene chloride, washed twice with 100 mL of saturated sodium chloride solution, washed twice with 100 mL of distilled water, and washed twice with 300 mL of 10% HCl. The HCl layer was made basic with 50% sodium hydroxide until the pH=10. At this point, the basic water layer was extracted three times with 300 mL of methylene chloride, the methylene chloride layer was dried over sodium sulfate and evaporated under reduced pressure. Yield: 0.34 g (0.00156 mol, 5-carboxaldehyde. NMR (CDCl3) δ 10.14. (s,1H); 9.54 (s,1H); 7.00 (d,1H); 6.55 (m,1H); 2.79 (t,2H); 1.80 (m,2H); 1.02 (t,3H).

reactant | 4-iodo-3-n-propylimidazole-5-carboxaldehyde | 0.01 mol, 2.64 g | IC=1N(C=NC1C=O)CCC | C7H9IN2O
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
reactant | furan-2-ylboronic acid | 0.0174 mol, 2.34 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 2M, 12 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-(furan-2-yl)-2-n-propylimidazole-5-carboxaldehyde | O1C(=CC=C1)C=1N=C(NC1C=O)CCC | C11H12N2O2
